US07728029B2
Cyclohexyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester (0.265 g, 0.91 mmol) was dissolved in methanol (1.4 mL). Water (1.4 mL) and lithium hydroxide (0.029 g, 1.21 mmol) were added and the mixture was heated at 80° C. for 1.5 hours. After cooling to room temperature, the methanol was removed in vacuo. Tetrahydrofuran was added to the residue and then removed in vacuo to ensure complete removal of the methanol. 6N HCl was added to the aqueous residue to pH 2-3, resulting in precipitation of a solid. The solid was collected by filtration, washed with water and dried under high vacuum at 100° C. to give 1-cyclohexyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid (0.206 g, 86%). Mass spectrum: m/z: 263.3 (M+H).

reactant | Cyclohexyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 0.91 mmol, 0.265 g | C(C)OC(=O)C=1C=NN(C1C(F)(F)F)C1CCCCC1 | C13H17F3N2O2
reactant | Water | 1.4 mL | O | H2O
reactant | lithium hydroxide | 1.21 mmol, 0.029 g | [OH-].[Li+]
solvent | methanol | 1.4 mL | CO | CH4O
product | 1-cyclohexyl-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid | 0.206 g, 86% | C1(CCCCC1)N1N=CC(=C1C(F)(F)F)C(=O)O | C11H13F3N2O2
